US06936617B2
A mixture of 2-aminothiazole (2 g, 20 mmol) and 3-bromo-2-oxo-pentanoic acid ethyl ester (4.4 g, 20 mmol) in ethanol (40 mL) is refluxed for 20 h. The solvent is removed in vacuo until dryness. The residue is purified by column chromatography (5% methanol in methylene chloride) to give 5-ethyl-imidazo[2,1-b]thiazole-6-carboxylic acid ethyl ester as an oil. Step 2. Preparation of 5-ethyl-6-hydroxymethyl-imidazo[2,1-b]thiazole

reactant | 2-aminothiazole | 20 mmol, 2 g | NC=1SC=CN1 | C3H4N2S
reactant | 3-bromo-2-oxo-pentanoic acid ethyl ester | 20 mmol, 4.4 g | C(C)OC(C(C(CC)Br)=O)=O | C7H11BrO3
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 5-ethyl-imidazo[2,1-b]thiazole-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C2SC=CN2C1CC | C10H12N2O2S
